US08022063B2
4-Bromo-2-[3-(3-chlorobenzyl)-2,4-dioxothiazoldin-5-ylmethyl]phenoxyacetic acid (7d).
Prepared from 3-chlorobenzyl bromide and 4-bromo-2-[2,4-dioxothiazolidin-(5Z)-ylidenemethyl]phenoxyacetic acid ethyl ester according to GP13, GP14 and GP16: LC/MS (an10p8): Rt 2.6 min, m/z 484 [M+H]+. 1H NMR (DMSO-d6): δ 3.02-3.10 (m, 1H), 3.54-3.60 (m, 1H), 4.69 (s, 2H), 4.75 (s, 2H), 5.09-5.14 (m, 1H), 6.89-6.92 (m, 1H), 7.18 (m, 1H), 7.33-7.43 (m, 5H), 13.01 (br s, 1H).

reactant | 3-chlorobenzyl bromide | ClC=1C=C(CBr)C=CC1 | C7H6BrCl
reactant | 4-bromo-2-[2,4-dioxothiazolidin-(5Z)-ylidenemethyl]phenoxyacetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)Br)\C=C/1\C(NC(S1)=O)=O)=O | C14H12BrNO5S
product | 4-Bromo-2-[3-(3-chlorobenzyl)-2,4-dioxothiazoldin-5-ylmethyl]phenoxyacetic acid | BrC1=CC(=C(OCC(=O)O)C=C1)CC1C(N(C(S1)=O)CC1=CC(=CC=C1)Cl)=O | C19H15BrClNO5S
